US06365602B1
(b) 4-(4-Methoxy-2-methylsulfonylphenyl)piperidine
To a solution of KOH (1.50 g) in 20 mL of 1:1 EtOH:H20 was added 1.23 g of 4-(4-methoxy-2-methylsulfonylphenyl)-N-Cbz-piperidine. The resulting mixture was heated reflux under N2 atmosphere for 18 h, evaporated, dissolved in 10 mL H2O, and extracted with CHCl3. The organic extracts were combined, dried over Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by chromatography (20:1 DCM in methanol containing 0.5% aqueous NH4OH). MS m/z 270 (M+H).

reactant | KOH | 1.50 g | [OH-].[K+]
reactant | 4-(4-methoxy-2-methylsulfonylphenyl)-N-Cbz-piperidine | 1.23 g | COC1=CC(=C(C=C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C | C21H25NO5S
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-(4-Methoxy-2-methylsulfonylphenyl)piperidine | COC1=CC(=C(C=C1)C1CCNCC1)S(=O)(=O)C | C13H19NO3S
